US06376512B1
A mixture of 10 mmol of 3-(3-(2-quinolinylmethyloxy)benzoylamino)benzonitrile, 50 mmol of sodium azide, and 50 mmol of pyridine HCl in 30 ml of DMF is heated at 100° C. for 2 days. The reaction mixture is poured into water, and the product is collected on a filter. Recrystallization from ethyl acetate and DMF gives 5-(3-(3-(2-quinolinylmethyloxy)benzoylamino)phenyl)tetrazole.

reactant | 3-(3-(2-quinolinylmethyloxy)benzoylamino)benzonitrile | 10 mmol | N1=C(C=CC2=CC=CC=C12)COC=1C=C(C(=O)NC=2C=C(C#N)C=CC2)C=CC1 | C24H17N3O2
reactant | sodium azide | 50 mmol | [N-]=[N+]=[N-].[Na+]
reactant | pyridine HCl | 50 mmol | Cl.N1=CC=CC=C1
reactant | water | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 5-(3-(3-(2-quinolinylmethyloxy)benzoylamino)phenyl)tetrazole | N1=C(C=CC2=CC=CC=C12)COC=1C=C(C(=O)NC=2C=C(C=CC2)C2=NN=NN2)C=CC1 | C24H18N6O2
